US08633212B2
To a solution of 6′-bromo-5,7,8,9-tetrahydrospiro[benzo[7]annulene-6,2′-inden]-1′(3′H)-one (200 mg, 0.59 mmol) and 3-cyanophenylboronic acid (130 mg, 0.885 mmol) in Cs2CO3 (2 M, 1 mL) and 1,4-dioxane (4.2 mL) under N2 was added Pd(PPh3)2Cl2 (20 mg). The mixture was stirred at 100° C. for 0.7 h. After cooled to room temperature, the organic layer was dried and concentrated to give the residue, which was purified by TLC to give 3-(1′-oxo-1′,3′,5,7,8,9-hexahydrospiro[benzo[7]annulene-6,2′-indene]-6′-yl)benzonitrile (120 mg, 56%).

reactant | 6′-bromo-5,7,8,9-tetrahydrospiro[benzo[7]annulene-6,2′-inden]-1′(3′H)-one | 0.59 mmol, 200 mg | BrC1=CC=C2CC3(C(C2=C1)=O)CC1=C(CCC3)C=CC=C1 | C19H17BrO
reactant | 3-cyanophenylboronic acid | 0.885 mmol, 130 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
solvent | Cs2CO3 | 2 M, 1 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 4.2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(1′-oxo-1′,3′,5,7,8,9-hexahydrospiro[benzo[7]annulene-6,2′-indene]-6′-yl)benzonitrile | 120 mg, 56% | O=C1C2(CC3=CC=C(C=C13)C=1C=C(C#N)C=CC1)CC1=C(CCC2)C=CC=C1 | C26H21NO
